US06172228B2
N-(2-Hydroxyethyl)-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide (7.75 g, 15.69 mmol) prepared in the same manner as in Example 19 was dissolved in ethanol. A 15% HCl-methanol solution was added thereto to make it acidic, and the solvent was removed by evaporation in vacuo. Diethyl ether was added to the residue, and the precipitated crystals were collected by filtration. The crystals were recrystallized from ethanol, to give N-(2-hydroxyethyl)-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide dihydrochloride (8.10 g) as colorless prisms (yield: 91.1%).

reactant | N-(2-Hydroxyethyl)-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide | 15.69 mmol, 7.75 g | OCCNS(=O)(=O)CCCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C25H36ClN3O3S
reactant | HCl methanol | Cl.CO
solvent | ethanol | C(C)O | C2H6O
product | N-(2-hydroxyethyl)-6-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide dihydrochloride | 8.10 g, yield: 91.1% | Cl.Cl.OCCNS(=O)(=O)CCCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=C(C=C1)Cl | InChI=1S/C25H36ClN3O3S.2ClH/c26-24-12-10-23(11-13-24)25(22-8-4-3-5-9-22)29-18-16-28(17-19-29)15-6-1-2-7-21-33(31,32)27-14-20-30;;/h3-5,8-13,25,27,30H,1-2,6-7,14-21H2;2*1H
